US04021407
EXAMPLE 1: PREPARATION OF 4,4,6-TRIMETHYL-2-HYDROXY-1,3, 2-DIOXABORINANE.
Boric acid (1mole) and 2methyl-2,4-pentanediol (1mole) were placed in a reaction vessel with 1,000 ml of benzene and the mixture refluxed until 2 moles of water were removed. Evaporation of the benzene at reduced pressure gave a liquid which slowly crystallized to give a white solid mp 73-75° C. [literature mp 69°-70° C. C. H. Steinberg and D. L. Hunter, Ind. & Eng. Chem. 49, 174-181 (1957)].

reactant | Boric acid | 1mole | B(O)(O)O | BH3O3
reactant | 2methyl-2,4-pentanediol | 1mole | CC(C)(CC(C)O)O | C6H14O2
reactant | water | 2 moles | O | H2O
solvent | benzene | 1,000 ml | C1=CC=CC=C1 | C6H6
product | 4,4,6-TRIMETHYL-2-HYDROXY-1,3, 2-DIOXABORINANE | CC1(OB(OC(C1)C)O)C | C6H13BO3
